US04788310
A mixture of 7 parts (39 mmol.) of 3-aminopropyltrimethoxysilane and 20 parts (330 mmol.) of methyl formate was heated under reflux in a nitrogen atmosphere. The reaction was monitored by gas chromatography and was found to be complete after 3 hours. Volatiles were then removed in vacuum, yielding the desired N-(3-trimethoxysilylpropyl)formamide.

reactant | 3-aminopropyltrimethoxysilane | 39 mmol | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | methyl formate | 330 mmol | C(=O)OC | C2H4O2
product | N-(3-trimethoxysilylpropyl)formamide | CO[Si](CCCNC=O)(OC)OC | C7H17NO4Si
